US05686638
338.58 g (1 mol) of erucic acid (purity 95%) were ozonized in analogy to Example 1 and then hydrogenation was carried out. The hydrogenation solution obtained in this way contained nonanal and tridecanealdehyde acid and was divided by distillation. For oxidation, the corresponding aldehyde fraction was employed and was oxidized at 14 bar in analogy to Example 1. 185 g of tridecanedioic acid per cycle were obtained with a purity of 95%.

reactant | erucic acid | 1 mol, 338.58 g | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)O | C22H42O2
reactant | nonanal | C(CCCCCCCC)=O | C9H18O
reactant | tridecanealdehyde | C(CCCCCCCCCCCC)=O | C13H26O
product | tridecanedioic acid | 185 g | C(CCCCCCCCCCCC(=O)O)(=O)O | C13H24O4
